US07750003B2
4-[4-[(3S)-3-Methylmorpholin-4-yl]-6-(2-tert-butylsulfonylpropan-2-yl)pyrimidin-2-yl]aniline
Dichlorobis(triphenylphosphine)-palladium(II) (0.103 g, 0.15 mmol) was added to 2-chloro-4-[(3S)-3-methylmorpholin-4-yl]-6-(2-tert-butylsulfonylpropan-2-yl)pyrimidine (1.10 g, 2.93 mmol), 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline (0.833 g, 3.80 mmol) and 2M aqueous sodium carbonate (5.27 mL, 10.53 mmol) in DMF (6 mL), DME (5 mL), ethanol (5 mL) and water (12.5 mL) at RT under nitrogen. The reaction was purged with nitrogen for 15 minutes and the resulting mixture was stirred at 80° C. for 16 hours. The reaction mixture was diluted with ethyl acetate and washed with water. The organic solution was dried (MgSO4), filtered, and concentrated under reduced pressure. The residue was chromatographed on silica, eluting with 25%-100% ethyl acetate in isohexane, to give the desired material as a yellow solid (1.19 g).

reactant | 2-chloro-4-[(3S)-3-methylmorpholin-4-yl]-6-(2-tert-butylsulfonylpropan-2-yl)pyrimidine | 2.93 mmol, 1.10 g | ClC1=NC(=CC(=N1)N1[C@H](COCC1)C)C(C)(C)S(=O)(=O)C(C)(C)C | C16H26ClN3O3S
reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline | 3.80 mmol, 0.833 g | CC1(OB(OC1(C)C)C1=CC=C(N)C=C1)C | C12H18BNO2
reactant | sodium carbonate | 10.53 mmol, 2M, 5.27 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
solvent | DME | 5 mL | COCCOC | C4H10O2
solvent | ethanol | 5 mL | C(C)O | C2H6O
solvent | water | 12.5 mL | O | H2O
catalyst | Dichlorobis(triphenylphosphine)-palladium(II) | 0.15 mmol, 0.103 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 4-[4-[(3S)-3-Methylmorpholin-4-yl]-6-(2-tert-butylsulfonylpropan-2-yl)pyrimidin-2-yl]aniline | 1.19 g | C[C@@H]1N(CCOC1)C1=NC(=NC(=C1)C(C)(C)S(=O)(=O)C(C)(C)C)C1=CC=C(N)C=C1 | C22H32N4O3S
